US06579976B2
Synthesis of 9-(5-O-trityl-2-deoxy-2-fluoro-β-D-arabinofuranosyl) adenine
6-Chloro-9-(5-O-trityl-3-O-benzoyl-2-deoxy-2-fluoro-β-D-arabinofuranosyl)-9-H-purine (3.15 g, 4.98 mmol) was dissolved in 100 ml methanolic ammonia (saturated at 0° C.) and left in a sealed tube at 100° C. for 2 days. After cooling, the solvent was carefully distilled off, and the residues were dissolved in 100 ml chloroform. The insolubles were filtered off and the solution was applied to a silica gel column (3.5×50 cm) and eluted with 3 to 10% ethanol/methylene chloride solution (4000 ml). Product fractions were collected, and the solution was concentrated to give white crystals (1.87 g, 3.66 mmol, 73%)

reactant | 6-Chloro-9-(5-O-trityl-3-O-benzoyl-2-deoxy-2-fluoro-β-D-arabinofuranosyl)-9-H-purine | 4.98 mmol, 3.15 g | ClC1=C2N=CN(C2=NC=N1)[C@H]1[C@H]([C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F | C36H28ClFN4O4
reactant | ammonia | 100 ml | N | H3N
product | 9-(5-O-trityl-2-deoxy-2-fluoro-β-D-arabinofuranosyl) adenine | 3.66 mmol, 1.87 g, 73% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OC[C@@H]1[C@H]([C@@H]([C@@H](O1)N1C2=NC=NC(=C2N=C1)N)F)O | C29H26FN5O3
